US05550152
Trans-3,4-dihydro-4-hydroxy-3-(phenylmethyl)-2H-1-benzopyran-7-propionic acid
Using the procedure of Example 2G with methanol as solvent at room temperature, the compound of step A (700 mg, 2.16 mmole) was reduced and the trans isomer 4-hydroxy-3-phenylmethyl-2H-1-benzopyran-7-propionic acid methyl ester saponified using the procedure of Example 2I to give the title compound (210 mg), 30% yield.

reactant | 4-hydroxy-3-phenylmethyl-2H-1-benzopyran-7-propionic acid methyl ester | COC(CCC1=CC2=C(C(=C(CO2)CC2=CC=CC=C2)O)C=C1)=O | C20H20O4
solvent | methanol | CO | CH4O
product | Trans-3,4-dihydro-4-hydroxy-3-(phenylmethyl)-2H-1-benzopyran-7-propionic acid | 210 mg, 30% yield | O[C@H]1[C@@H](COC2=C1C=CC(=C2)CCC(=O)O)CC2=CC=CC=C2 | C19H20O4
